US06531474B1
4-Acetylamino-5-chloro-2-methoxy-benzoic Acid
4-Acetylamino-5-chloro-2-methoxy-benzoic acid methyl ester (2.09 g, 8.11 mmol) was dissolved in MeOH (110 ml) and LiOH solution (25.48 mmol in 30 ml, 1:1 MeOH:H2O) added and the solution stirred at room temperature for 6 hours. The solvent was concentrated in vacuo, EtOAc added and the organic phase was washed with 0.5N HCl then extracted with saturated NaHCO3 (2×). The aqueous phase was acidified with 12N HCl to pH 1 and the resulting precipitate extracted into CH2Cl2. The combined extracts were dried over anhydrous Na2SO4, filtered and evaporated to give the title compound as a white solid (0.933 g, 50% yield). 1H-NMR (500 MHz, CDCl3) δ 2.31 (s, 3H), 4.10 (s, 3H), 7.78-7.92 (br s, 1H), 8.17 (s, 1H), 8.45 (s, 1H). Analytical HPLC 5.62 min.

reactant | 4-Acetylamino-5-chloro-2-methoxy-benzoic acid methyl ester | 8.11 mmol, 2.09 g | COC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O | C11H12ClNO4
reactant | LiOH | 25.48 mmol, 30 ml | [Li+].[OH-]
solvent | MeOH | 110 ml | CO | CH4O
product | 4-Acetylamino-5-chloro-2-methoxy-benzoic Acid | 0.933 g, 50% yield | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
